US04736056
Into a 250 milliliter Erlenmeyer flask equipped with a magnetic stirrer was added 15.0 grams (0.05 mol) of ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate prepared as in Example A, 16.56 grams (0.12 mol) of potassium carbonate, 150 milliliters of dimethylformamide and 5.16 milliliters (0.06 mol) of 1,2-dibromethane. The resulting mixture was stirred at ambient temperature for a period of 23 hours (liquid chromatographic analysis indicated 87 percent and 95 percent conversions after 2 and 6 hours respectively). Potassium hydroxide (4.0 grams, 0.07 mol) was then added in one gram increments until no ethyl 1-[(4-bromo-2-methylphenylaminocarbonyl)cyclopropanecarboxylate remained. The reaction mixture was diluted to 900 milliliters with water and acidified with concentrated HCl to a pH of 1-2 to afford a yellow percipitate. The yellow precipitate was dried for a period of about 18 hours in an unheated vacuum oven to give 11.88 gram (0.04 mol) of 1-(4-bromo-2-methylpheylaminocarbonyl)cyclopropanecarboxylic acid. The total yield was 80 percent based on a 96.7 weight percent liquid chromatographic assay of the starting ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate.

reactant | ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate | 0.05 mol, 15.0 grams | BrC1=CC(=C(C=C1)NC(CC(=O)OCC)=O)C | C12H14BrNO3
reactant | potassium carbonate | 0.12 mol, 16.56 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromethane | 0.06 mol, 5.16 milliliters | BrCCBr | C2H4Br2
reactant | Potassium hydroxide | 0.07 mol, 4.0 grams | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 150 milliliters | CN(C=O)C | C3H7NO
product | 1-(4-bromo-2-methylpheylaminocarbonyl)cyclopropanecarboxylic acid | 0.04 mol, 11.88 gram, yield was 80 percent | BrC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)O)C | C12H12BrNO3
